US05574178
Phosphorus oxychloride (1.1 g) was added dropwise to N,N-dimethylformamide (0.4 g) under cooling with ice and, subsequently, a solution of 5-acetoxy-4,6-di-tert-butylbenzofuran (1.0 g) in N,N-dimethylformamide (2 ml) was added dropwise. The mixture was stirred first at room temperature for 20 min, then under heating at 80° C. for 75 min. After cooling, the reaction mixture was poured into water and subjected to extraction ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 5-acetoxy-4,6-di-tert-butyl-2-formylbenzofuran [0.95 g (yield, 86%)] as a colorless, fine-grained crystal.

reactant | Phosphorus oxychloride | 1.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-acetoxy-4,6-di-tert-butylbenzofuran | 1.0 g | C(C)(=O)OC=1C(=CC2=C(C=CO2)C1C(C)(C)C)C(C)(C)C | C18H24O3
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
product | 5-acetoxy-4,6-di-tert-butyl-2-formylbenzofuran | 0.95 g, 86% | C(C)(=O)OC=1C(=CC2=C(C=C(O2)C=O)C1C(C)(C)C)C(C)(C)C | C19H24O4
